US04670557
hexyldiphenylphosphine
tribenzylphosphine, triisobutylphosphine,

reactant | tribenzylphosphine | C(C1=CC=CC=C1)P(CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H21P
reactant | triisobutylphosphine | C(C(C)C)P(CC(C)C)CC(C)C | C12H27P
product | hexyldiphenylphosphine | C(CCCCC)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H23P
